US04405628
1,3-Dihydro-4-isonicotinoyl-5-methyl-2H-imidazole-2-one
In 80 ml tetrachloroethane are placed 3.87 g (39.5 mmole) 1,3-dihydro-4-methyl-2H-imidazole-2-one and 7 g (39.5 mmole) isonicotinoyl chloride hydrochloride. Aluminum chloride (26 g, 194 mmole) is added and the mixture is stirred at 85° C. for 3 hours. The tetrachloroethane is decanted from the reaction mixture and the residue is quenched with water and neutralized with sodium bicarbonate. The suspension is filtered and the filtrate evaporated to dryness. Chromatography over silica gel affords the title compound; m.p. 295°-96°.

reactant | 1,3-dihydro-4-methyl-2H-imidazole-2-one | 39.5 mmole, 3.87 g | CC=1NC(NC1)=O | C4H6N2O
reactant | isonicotinoyl chloride hydrochloride | 39.5 mmole, 7 g | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | Aluminum chloride | 194 mmole, 26 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | tetrachloroethane | 80 ml | ClCC(Cl)(Cl)Cl | C2H2Cl4
product | 1,3-Dihydro-4-isonicotinoyl-5-methyl-2H-imidazole-2-one | C(C1=CC=NC=C1)(=O)C=1NC(NC1C)=O | C10H9N3O2
